US06265403B1
A deoxygenated solution of 3-bromo-5-thiophen-3-yl-pyridine (250 mg, 1.04 mmol, 1 equiv), 1-tosyl-3-indoleboronic acid (430 mg, 1.36 mmol, 1.31 equiv, prepared according to Zheng, Q; Yang, Y; Martin, A. R. Heterocycles 1994, 37, 1761), Pd(PPh3)4 (60 mg, 0.052 mmol, 0.050 equiv), and 2.0 M Na2CO3 (1.0 mL, 2.0 mmol, 1.9 equiv) in dioxane (10 ml) was heated under argon at reflux for 20 h. The reaction mixture was allowed to cool, then partitioned between water (100 mL) and ethyl acetate (2×100 mL). The combined organic layers were dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography (40% ethyl acetate in hexane) to afford 3-(5-thiophen-3-yl-pyridin-3-yl)-1-(toluene-4-sulfonyl)-indole as a white foam.

reactant | 3-bromo-5-thiophen-3-yl-pyridine | 1.04 mmol, 250 mg, 1 equiv | BrC=1C=NC=C(C1)C1=CSC=C1 | C9H6BrNS
reactant | 1-tosyl-3-indoleboronic acid | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=C(C2=CC=CC=C12)B(O)O | C15H14BNO4S
reactant | Na2CO3 | 2.0 mmol, 2.0 M, 1.0 mL, 1.9 equiv | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.052 mmol, 60 mg, 0.050 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(5-thiophen-3-yl-pyridin-3-yl)-1-(toluene-4-sulfonyl)-indole | S1C=C(C=C1)C=1C=C(C=NC1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C=C1)C | C24H18N2O2S2
